US08372864B2
Poured into a suspension of 233 mg of (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride (2:1), 278 mg of 7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid, 12 mg of hydroxybenzotriazole and 142 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 10 cm3 of dichloromethane is 0.4 cm3 of N,N-diisopropylethylamine at a temperature close to 20° C. The solution is kept stirring for 20 h at a temperature close to 20° C. 20 cm3 of water are added to the reaction medium. After decanting, the organic phase is filtered through a pellet of 15 g of 40-63 μm silica. The silica pellet is washed firstly with 150 cm3 of dichloromethane then secondly with 150 cm3 of a mixture of 50% ethyl acetate/50% dichloromethane. This second filtrate is concentrated using a rotary evaporator under reduced pressure (5 kPa). 330 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide are obtained in the form of a white foam.

reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)butan-2-ol hydrochloride | 233 mg | Cl.N[C@H]([C@@H](CNC1(CC1)C1=CC(=CC=C1)C(F)(F)F)O)CC1=CC(=CC(=C1)F)F
reactant | 7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylic acid | 278 mg | CN(C=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)O)S(=O)(=O)C | C19H28N2O5S
reactant | hydroxybenzotriazole | 12 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 142 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.4 cm3 | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | water | 20 cm3 | O | H2O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-7-[methyl(methylsulfonyl)amino]-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 330 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=C(C2)N(S(=O)(=O)C)C)=O)C(CCC)CCC)C=C(C1)F | C39H47F5N4O5S
